US05102667
N,N'-Carbonyldiimidazole (0.52 g) is added to a solution of 2-(2,6-dimethoxyphenyl)acetic acid (0.63 g) in dry dichloromethane (20 cc), cooled to +5° C. The mixture is stirred for 35 minutes at +5° C. The mixture is stirred for 35 minutes at +5° C. and a solution of (3aRS,7aRS)-7,7-diphenyl-4-perhydroisoindolone hydrochloride (1.05 g) and triethylamine (0.44 cc) in dichloromethane (25 cc) is then added. The reaction mixture is stirred at 20° C. for 16 hours, then washed with distilled water (2×50 cc), dried over magnesium sulphate and filtered and the filtrate is concentrated to dryness under reduced pressure (2.7 kPa). The residue is crystallized from a mixture of acetonitrile (16 cc) and isopropyl ether (15 cc). The crystals are drained, washed with isopropyl ether (10 cc) and dried. (3aRS,7aRS)-2-[(2,6-dimethoxyphenyl)acetyl]-7,7-diphenyl-4-perhydroisoindolone (0.89 g) melting at 224° C. is obtained.

reactant | 2-(2,6-dimethoxyphenyl)acetic acid | 0.63 g | COC1=C(C(=CC=C1)OC)CC(=O)O | C10H12O4
reactant | (3aRS,7aRS)-7,7-diphenyl-4-perhydroisoindolone hydrochloride | 1.05 g | Cl.C1(=CC=CC=C1)C1(CCC(C2CNCC12)=O)C1=CC=CC=C1
reactant | triethylamine | 0.44 cc | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 20 cc | ClCCl | CH2Cl2
solvent | dichloromethane | 25 cc | ClCCl | CH2Cl2
product | (3aRS,7aRS)-2-[(2,6-dimethoxyphenyl)acetyl]-7,7-diphenyl-4-perhydroisoindolone | 0.89 g | COC1=C(C(=CC=C1)OC)CC(=O)N1CC2C(CCC(C2C1)=O)(C1=CC=CC=C1)C1=CC=CC=C1 | C30H31NO4
